US09102682B2
To the crude [2-(benzyloxycarbonylamino)-4-methyl-pentyl]methanesulfonate from the above reaction in DMF (50 mL), was added sodium azide 2.43 g. The reaction mixture was then heated to 85 degrees for 3 hrs. After cooling, ethyl acetate (300 mL) and water was added. The organic layer was separated, dried with magnesium sulfate and then concentrated under vacuum to afford the crude benzyl N-[1-(azidomethyl)-3-methyl-butyl]carbamate. To this crude intermediate was added THF (100 mL) followed by triphenylphosphine 7.21 g and stirred under nitrogen for 16 hrs. After addition of water (10 mL), and stirring for an additional 6 hrs, ethyl acetate was added and the layers separated. After drying with magnesium sulfate and concentration under vacuum, the crude product was columned using DCM/MeOH (0-10%) to afford benzyl N-[1-(aminomethyl)-3-methyl-butyl]carbamate (4.5 g).

reactant | [2-(benzyloxycarbonylamino)-4-methyl-pentyl]methanesulfonate | C(C1=CC=CC=C1)OC(=O)NC(CCS(=O)(=O)[O-])CC(C)C
reactant | sodium azide | 2.43 g | [N-]=[N+]=[N-].[Na+]
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | benzyl N-[1-(azidomethyl)-3-methyl-butyl]carbamate | N(=[N+]=[N-])CC(CC(C)C)NC(OCC1=CC=CC=C1)=O | C14H20N4O2
